US07501438B2
To a solution of butyric acid (4.5 mL, 48.7 mmol) in THF (50 mL) was added EDC (11.2 g, 58.4 mmol) and HOBt (7.88 g, 58.4 mmol). The mixture was stirred for 10 min. then 2-(aminomethyl)pyridine (4.7 mL, 46.3 mmol) was added. The solution was allowed to stir for 3 h then quenched with water (100 mL). The mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to yield N-pyridin-2-ylmethyl-butyramide (5.82 g, 67%).

reactant | butyric acid | 48.7 mmol, 4.5 mL | C(CCC)(=O)O | C4H8O2
reactant | EDC | 58.4 mmol, 11.2 g
reactant | HOBt | 58.4 mmol, 7.88 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(aminomethyl)pyridine | 46.3 mmol, 4.7 mL | NCC1=NC=CC=C1 | C6H8N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-pyridin-2-ylmethyl-butyramide | 5.82 g, 67% | N1=C(C=CC=C1)CNC(CCC)=O | C10H14N2O
